US05998433
c) Synthesis of N,N-dimethyl-[7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine 0.166 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N,N-Dimethyl-[7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine | 0.166 g | CN(C)CC1=CC2=C(CN(CCC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C25H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CCC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | InChI=1S/C25H26N2O3.ClH/c1-26(2)16-22-15-21-9-6-14-27(17-23(21)30-22)25(29)20-12-10-19(11-13-20)24(28)18-7-4-3-5-8-18;/h3-5,7-8,10-13,15H,6,9,14,16-17H2,1-2H3;1H
